US05008280
2-Imino-3(2-ethylthioethyl)-6-trifluoromethylbenzothiazoline can be obtained in the following manner: A mixture of 6-trifluoromethyl-2-benzothiazolamine (32.3 g), 2-chloroethylsulphide (18 cc) and methylethylketone (20 cc) is heated under reflux for 16 hours. After cooling to 20° C., acetone (20 cc) is added and the solution obtained is poured into a mixture of ethyl acetate (200 cc) and petroleum ether (40°-60° C., 200 cc). The precipitate obtained is filtered off, taken up in water, and made alkaline with 28% ammonia. The base is then extracted with a mixture of ethylacetate (150 cc) and cyclohexane (150 cc) and purified on a column of silica (600 g), eluting with a mixture of ethylacetate and cyclohexane (50:50 by volume). 2-Imino-3-(2-ethylthioethyl)-6-trifluoromethylbenzothiazoline (33.2 g), m.p. 50° C., is thus obtained.

reactant | 6-trifluoromethyl-2-benzothiazolamine | 32.3 g | FC(C1=CC2=C(N=C(S2)N)C=C1)(F)F | C8H5F3N2S
reactant | 2-chloroethylsulphide | 18 cc | ClCCSCCCl | C4H8Cl2S
reactant | methylethylketone | 20 cc | CC(=O)CC | C4H8O
reactant | acetone | 20 cc | CC(=O)C | C3H6O
solvent | ethyl acetate | 200 cc | C(C)(=O)OCC | C4H8O2
product | 2-Imino-3-(2-ethylthioethyl)-6-trifluoromethylbenzothiazoline | 33.2 g | N=C1SC2=C(N1CCSCC)C=CC(=C2)C(F)(F)F | C12H13F3N2S2
